Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Right tibia fracture
 
Major Surgical or Invasive Procedure:
___: s/p Removal of External Fixator with Open Reduction 
Internal Fixation of Right Distal Tibia.

 
History of Present Illness:
Mr. ___ is a ___ year old right hand dominant ___ 
speaking ___ worker who fell off a 20 foot roof. He had 

immediate right leg and hip pain as well as left elbow pain, and 

an open wound on his left leg. He denies LOC. Left elbow 
fracture/dislocation was reduced and splinted in ED.  He had an 
external fixator placed and now presents for definitive 
management of his wound.

 
Past Medical History:
None
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Well apprearing male in no acute distress. Afebrile with stable 
vital signs
and controlled pain.
o Respiratory: CTAB
o Cardiovascular: RRR
o Gastrointestinal: NABS
o Genitourinary: voiding w/o foley
o Lymph: no LAD
o Musculoskeletal-Extremities: RLE SILT sp/dp/saph/sural. no 
calf tenderness,
___ strength in the right lower extremity.  Bilvale case in 
place.  Medial wound with staples in place, slight drainage. 
Lateral side sutures removed
o Neurologic: in tact with no focal deficits
o Integument: no rashes, incision clean, dry and in tact without 
erythema or
drainage
o Psychiatric: pleasant w/o psychosis
 
Pertinent Results:
___ 08:10AM BLOOD WBC-11.1* RBC-3.53* Hgb-9.4* Hct-29.2* 
MCV-83 MCH-26.5* MCHC-32.1 RDW-13.1 Plt ___
___ 06:55AM BLOOD WBC-8.2 RBC-3.48* Hgb-9.4* Hct-29.0* 
MCV-83 MCH-26.9* MCHC-32.3 RDW-13.3 Plt ___
___ 12:09PM BLOOD WBC-11.7* RBC-4.13*# Hgb-11.3*# 
Hct-35.6*# MCV-86 MCH-27.3 MCHC-31.6 RDW-13.8 Plt ___
___ 07:00AM BLOOD Glucose-91 UreaN-12 Creat-0.8 Na-137 
K-4.4 Cl-97 HCO3-32 AnGap-12
___ 12:07PM BLOOD Glucose-139* UreaN-18 Creat-0.9 Na-142 
K-3.8 Cl-104 HCO3-28 AnGap-14
___ 07:00AM BLOOD Calcium-9.7 Phos-5.0* Mg-1.8
___ 12:07PM BLOOD Calcium-9.3 Phos-5.3*# Mg-1.9
 
Brief Hospital Course:
The patient was admitted on ___ and, later that day, was 
taken to the
operating room by Dr. ___ an ___ right tibia and 
removal of external fixator. Please see operative report for 
details. Postoperatively the patient did well. The patient was 
initially treated with a PCA followed by PO pain medications on
POD#1.  The patient received IV antibiotics for 24 hours 
postoperatively,
as well as lovenox for DVT prophylaxis starting on the morning 
of POD#1.   The
drain was removed without incident on POD#1. The Foley catheter 
was removed
without incident. The surgical dressing was removed on POD#2 and 
the surgical
incision was found to be clean, dry, and intact without erythema 
or purulent
drainage. 

While in the hospital, the patient was seen daily by physical 
therapy. Labs were
checked throughout the hospital course and repleted accordingly. 
At the time of
discharge the patient was tolerating a regular diet and feeling 
well.  The
patient was afebrile with stable vital signs. The patient's 
hematocrit was stable, and the patient's pain was adequately
controlled on a PO regimen. The operative extremity was 
neurovascularly intact
and the wound was benign. The patient was discharged to home in 
a stable condition.  The patient's weight-bearing status was
non-weight bearing.

 
Medications on Admission:
Percocet ___ mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain. Disp:*90 Tablet(s)* Refills:*0*
 
Discharge Medications:
1. Percocet ___ mg Tablet Sig: ___ Tablets PO every four (4) 
hours as needed for pain.
Disp:*90 Tablet(s)* Refills:*0*
2. Enoxaparin 40 mg/0.4 mL Syringe Sig: One (1) syringe 
Subcutaneous DAILY (Daily) for 3 weeks.
Disp:*30 syringe* Refills:*0*
3. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
4. Keflex ___ mg Capsule Sig: One (1) Capsule PO four times a 
day for 2 weeks.
Disp:*56 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Right Distal Tibia Fracture

 
Discharge Condition:
Stable with normal mental status.

 
Discharge Instructions:
-Keep incision dry.  Do not  soak in tub or pool.
 
-Keep splint dry.  Keep splint on at all times.
 
-Continue to be non weight bearing on your right leg.
 
-Elevate right leg to reduce swelling and pain.
 
-Resume your regular diet.
 
-Take all  medications as directed.
 
-Continue taking the Lovenox to prevent blood clots.
 
-Avoid Nicotine products to promote healing.  Nicotine directly 
inhibits bone healing.
 
-Avoid Non-steroidal anti-inflammatory medications such as 
Ibuprofen.
 
-Narcotic pain medication may cause drowsiness.  Do not drink 
alcohol while taking narcotic medications.  Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications.  Taking more than recommended may cause serious 
breathing problems.
 
-Percocet Acetaminophen.  Taking more Acetaminophen than 
recommended may cause serious liver problems.  Do not take 
Acetaminophen containing products with this prescription.
 
If you have any questions or concerns please call your doctor at 
___

If you experience any of the below listed danger signs then go 
to your local emergency room or call your doctor at 
___.

Please take the antibiotic unitl you follow-up with Ortho trauma

 

Physical Therapy:
non weighbearing operative side
Treatments Frequency:
keep clean and dry. place a sterile dressing on the affected 
side
 
Followup Instructions:
___